US05089504
Methyl 2-propanoyl-3-(2-methoxyphenylamino)acrylate (77.7 g, 0.29 mol) was added to boiling diphenyl ether (500 ml) then heated at reflux for 1 hour. The solution was partially cooled and poured into high-boiling petroleum ether, then the solid filtered off and washed with 40-60 petroleum ether to give 3-propanoyl-8-methoxy-4(1H)-quinolone (35.6 g, 52%), m.p. 260°-263°.

reactant | Methyl 2-propanoyl-3-(2-methoxyphenylamino)acrylate | 0.29 mol, 77.7 g | C(CC)(=O)C(C(=O)OC)=CNC1=C(C=CC=C1)OC | C14H17NO4
solvent | diphenyl ether | 500 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-propanoyl-8-methoxy-4(1H)-quinolone | 35.6 g, 52% | C(CC)(=O)C1=CNC2=C(C=CC=C2C1=O)OC | C13H13NO3
